US09034879B2
Step 1: tert-butyl 2-(2-(2-(benzyloxy)-3,3,3-trifluoro-2-methylpropanoyl)hydrazine carbonyl)-6-methoxy-5-(trifluoromethyl)pyridin-3-ylcarbamate
To a solution of 2-(benzyloxy)-3,3,3-trifluoro-2-methylpropanoic acid (Int. D) (0.709 g, 2.85 mmol) in DMF (15 ml) was added HATU (1.303 g, 3.43 mmol) followed by DIPEA (0.598 ml, 3.43 mmol). After 30 mins, tert-butyl 2-(hydrazinecarbonyl)-6-methoxy-5-(trifluoromethyl)pyridin-3-ylcarbamate (Int. C) (1 g, 2.85 mmol) was added and the reaction mixture was stirred at RT for 3 h. The mixture was poured into water and the product extracted with EtOAc. The organic portion was washed with 1 MHCl, brine, dried (MgSO4) and concentrated in vacuo. Purification by chromatography on silica eluting with 0% to 50% EtOAc in iso-hexane afforded the title compound:

reactant | 2-(benzyloxy)-3,3,3-trifluoro-2-methylpropanoic acid | 2.85 mmol, 0.709 g | C(C1=CC=CC=C1)OC(C(=O)O)(C(F)(F)F)C | C11H11F3O3
reactant | HATU | 3.43 mmol, 1.303 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.43 mmol, 0.598 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl 2-(hydrazinecarbonyl)-6-methoxy-5-(trifluoromethyl)pyridin-3-ylcarbamate | 2.85 mmol, 1 g | N(N)C(=O)C1=NC(=C(C=C1NC(OC(C)(C)C)=O)C(F)(F)F)OC | C13H17F3N4O4
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 2-(2-(2-(benzyloxy)-3,3,3-trifluoro-2-methylpropanoyl)hydrazine carbonyl)-6-methoxy-5-(trifluoromethyl)pyridin-3-ylcarbamate | C(C1=CC=CC=C1)OC(C(=O)NNC(=O)C1=NC(=C(C=C1NC(OC(C)(C)C)=O)C(F)(F)F)OC)(C(F)(F)F)C | C24H26F6N4O6
